### ISSUE TITLE
If several subgoals are generated in a sym => tactic block, only the first one is available when switching to tactic =>

### ISSUE THREAD

**Issue by protz** [leanprover/lean4#14668]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

[repro on live.lean-lang.org](https://live.lean-lang.org/#project=lean-nightly&codez=JYWwDg9gTgLgBAGQKYEMB2A6AogGxQIwwBUUBjGYUjAcSmDQBMMAhFAZ0oChRJZFVMAWSQwUGAMoBPEDTqNOEMEjT90cYaLi4CcEuS6c2ktKIAecABRoUIJHABcAXjhGQAQTBgckgMIQ0AFYAlHAARCie3gD6pP4BYXAwSFAgDnAA5nIMnJwAAgDamfQMUaL6pC7SHl6%2BcQC6nAxIAGZwSABuKDhS7pG1gWm0xbLFehQVTpxwcM0AripsMOb2cFImKOaOAHxwDBBTcDgiiWkAcjZ2TnAABtdujBj0MFD700fwULNHaT0sZADWAHcUFAGAAlL52QAJhKtpBgQP9WKQgSDwZCAGIvEAAESQpBwiQO7wyEC6gyyNFJBJhQwe6REghQ9GoVKJxww6SpbAy3JWtKY1W8YKQbC%2B8BpFJwwGaMH5gks%2FMpXQwERqJLJnyOIQAPokABYvQFYKAvKBhbHABhwNAQeCq7yhA6KtgiFldbnpNg5JCmGxeOwWMBwACOaQACi8wCEVkHAEmEIbg8aDgHIiBNXfCSA6uODbA5PF5wPVBvXBg72yQxOKJeAAWhrcBQ8BgersyitEFazeA3KlaCQK3ozQg7WASEBu27XhQkm5ACZ1TgvdMyuMc1sy2xReAKP4N1uwDuVHWtCboCtThAF9yYJf8HY2BAcO0kNkgA)

### Description

If a `sym` tactic generates several subgoals, switching to regular tactic mode only shows the first subgoal.

Consider this repro (see above for link to lean-lang):

```lean4
example (p q : Prop) : p → q → p ∧ q := by
  sym =>
  intros
  apply And.intro -- putting the cursor at the end of this line, I see two subgoals in the infoview
  tactic => -- but putting the cursor at the end of this line, I see only one goal
  assumption
  assumption -- indeed, attempting to close the second goal fails with: Error: No goals to be solved
```

Contrast this with

```lean4
example (p q : Prop) : p → q → p ∧ q := by
  intros
  apply And.intro
  assumption
  assumption
```

which works as expected

**Comment by leodemoura** [comment]
This is working as intended. `tactic => ...` is a terminal tactic: it receives the current `sym` goal and must close it. Goals produced or left open inside the block cannot be handed back to `sym`, because they would have to be reinternalized into the `SymM` state.

Here are two possibilities.

1- 
```lean
example (p q : Prop) : p → q → p ∧ q := by
  sym =>
  intros
  apply And.intro
  tactic => assumption
  tactic => assumption
```

If this is too verbose, you can define a macro for the tactics you use often:

2- 

```lean
macro "assumption" : grind => `(grind| tactic => assumption)

example (p q : Prop) : p → q → p ∧ q := by
  sym =>
  intros
  apply And.intro
  · assumption
  · assumption
```

This is how `exact` already works in `sym` mode: it is a macro that expands to `tactic => exact ....`

**Comment by protz** [comment]
Thanks, I could've sworn I tried that out and got a syntax error. My bad. I'll reopen if I find the error. Thanks!
